US04057647
1 g. of 2-[1-(2',4'-biphenylyl)ethyl]butan-3-one acid ethyl ester, obtained by reacting 4-(1-bromoethyl)-2',4'-difluorobiphenyl with ethyl acetoacetate, and 15 ml. of 50% KOH are stirred for 45 minutes at 40° under N2. The mixture is cooled, diluted with water and brought to pH 10 with HCl. The reaction mixture is washed with ether and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | 4-(1-bromoethyl)-2',4'-difluorobiphenyl | BrC(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C14H11BrF2
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | KOH | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
